Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
paranoid ideation, hallucinations (per patient's family)
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old man with a history of Type DM2, 
subclinical hyperthyroidism, HTN, trigeminal neuralgia and no 
formal psychiatric history who was brought to ___ ___ via EMS 
for worsening paranoia. Per EMS run report, patient has had 
worsening paranoia over the last 2 weeks and when EMS arrived to 
take him to the hospital, he was very resistant and held on to a 
railing as they tried to put him on stretcher. He required soft 
restraints to be transported. Per ___ consult note 
from ___:
. 
"Mr. ___ was a very poor historian, with disorganized 
thought process, tangentiality/circumstantiality, and speech 
delays. As such, much of the history was obtained with the 
assistance of his daughter, who was at bedside. He reports that 
he has lost 2 of his sons: one by ___ to the head ___ years ago, 
and the other died in ___ at home due to unknown causes. 
Patient was the one who found son on the floor of kitchen in 
___ since then, patient and family report that he has not been 
doing well, though they could not describe the initial changes 
in his behavior. Per daughter, reported symptoms include 
persistent worry about locking the doors, communication with 
family about being safe, and feeling like he needs to protect 
his family, like somebody might hurt them. This all started ___ 
years ago. Over the last several days, these symptoms have 
increased to the point where patient goes outside to protect his 
family because he feels like people are going to hurt him. Mood 
has been "down for a while". He reports that he can't sleep at 
night because of people talking on the street and he is afraid 
that they are going to come into his home to hurt him. Poor 
appetite, low energy, poor concentration, sleeps during the day. 
Enjoys seeing children and grandchildren; rides bike to their 
homes, but doesn't feel safe on the street when riding his bike, 
feels like people are following him. Doesn't want to return home 
tonight, reports being "scared" that somebody might hurt him (he 
became tearful when saying this). Guarded and vague when asked 
about SI, doesn't respond fully, saying that he has had times 
when he feels "very sad" but did not specifically address the 
topic of suicidality. Patient reported that he used to cut 
(showed scars on right forearm) "a long time ago." Denies any 
recent self-injurious behaviors. Denies HI ("never"), saying 
that he is just trying to be safe from the people who are trying 
to hurt him, but he does not plan to hurt them. Denies AH/VH, 
though was somewhat vague and hesitant in his response. Denies 
seeing messages on TV or in newspapers warning him specifically. 
Reports feeling like people can manipulate his thoughts, but was 
vague and guarded about it. He reports being afraid that someone 
is trying to hurt him and his family. Reports having dreams 
about people trying to hurt him. He reports feeling scared to go 
back home.
.
COLLATERAL: Daughter ___ ___: Patient hasn't been 
the same since that death. Little by little he has become 
paranoid, locking things a lot and checking windows/doors a lot, 
calling children to make sure they lock their things up 
correctly. In the last few days, his paranoia has "jumped from a 
3 to a 9". Calls them saying that they shouldn't go to his 
house, someone is trying to kill him, telling wife to get their 
things so that they can leave, pushing children out of his house 
and telling them to
leave. BEST saw him and tried to get him into a program at ___, 
but they were concerned it was something medical and to be 
evaluated in the ___. Saw a therapist at ___ a few days ago, 
and therapist was concerned it could be PTSD. Has appointment 
with therapist next week, and a psychiatrist the following week. 
Family was afraid that he may leave the house. Today, 
patient left the house and was outside trying to make sure that 
his children don't come to the house, because he felt something 
was going to happen. If he hears somebody walking by, he is next 
to the window, checking, observing people, making sure he is not 
in danger. He went to another daughter's house yesterday and was 
very scared, saying that some police officers are following him. 
Daughter reports ___ years of paranoia, that worsened over the 
last couple days.
. 
Oldest brother died ___ years ago, shot in the head when someone 
was trying to ___ him.
. 
Other son died in ___, found in the home deceased, unclear 
cause. That's when patient began experiencing a lot of paranoia. 
If he sees a light, he thinks it's a camera. If it's a black 
truck, he thinks it's following him. 
. 
Course in Emergency Department (including behavior, medications 
given): Patient attempted to leave his room in the ___ around 3 
AM. Security was called and he was assisted back to his room.  
However, he became more upset and pulled the cord off the wall.  
Security took cord from him and he became more agitated.  Was 
put in 4 point restraints and given Haldol 5 mg and Ativan 2 mg. 
Was removed from restraints around 4:30 AM and remained sleeping 
rest of night. Ate breakfast in the morning then went back to 
sleep.
.
On the unit, patient appeared drowsy at times but was able to 
sit and talk with a ___ interpreter initially then his 
daughter when she arrived on the unit. Per the patient, he has 
been feeling "bad" for some time and his daughter called EMS 
because she was concerned about him. He was somewhat vague in 
his answers as to why she was concerned about him but when asked 
if
it was because she thought he might harm himself he agreed. He 
reports he has been going to ___ for therapy but doesn't 
think that he's seen a psychiatrist before. Talked about being 
very close to his grandchildren and wanting to leave to be able 
to go see them. Upon further discussion he stated it was going 
to be their birthdays soon so he wants to be out of hospital. He 
reports worrying about them and that something might happen to
them or someone might harm them though he didn't give details. 
Reports some difficulty sleeping due to the worrying and also 
nightmares of being attacked. Patient was somewhat 
circumstantial for many questions regarding symptoms of 
depression but did endorse that he likes to ride his bike and 
see his grandchildren, is eating mostly ok but recently has had 
an upset stomach and doesn't feel suicidal. Denied difficulties 
with his focus and memory.   
.
When explaining CV versus section 12b, it was at times difficult 
to assess if he was following as he perseverated on wanting to 
go see his grandchildren. He asked that his daughter be included 
in the discussion about the CV versus 12b so had her and his 
wife join the interview.  After answering questions, patient did 
decide to sign CV and would also like to sign a 3 day notice. 
His daughter, ___, reports that she called EMS because the 
patient started acting oddly yesterday stating that he thought
someone would come into the house and they weren't safe. She 
denies noticing changes in his memory of functioning lately.
 
Past Medical History:
Past psychiatric history:
- Prior diagnoses: Daughter denies
- ___: Daughter denies
- ___: Denies any previous psychiatrists; has intake
appointment Dr. ___ on ___
- Therapist: started seeing ___ ___ 
at ___ 2 days ago; has another appt. on ___
- Medication trials: Daughter denies
- ___ trials: Daughter denies
- ___ attempts: Denies
- Self-injurious behavior: Remote history of cutting; could not 
recall when exactly
- Harm to others: Denies
- Trauma: death of 2 of his sons
- Access to weapons: Denies
. 
On the unit, patient denies seeing a psychiatrist before but he 
does think that he might have been given a medication for sleep 
at some point.  Wasn't sure of the name and reports he cannot 
read so doesn't know first letter of med.  
. 
Past medical history:
Per ___ consult note from ___:
"**PCP: ___, NP
1. Hypertension
2. Hyperlipidemia
3. Diabetes: 6.1 ___, checks home glucose, currently in low
100's. He is not on any diabetes medication, this is followed by 
his PCP.  
4. Subclinical Hyperthyroidism - being followed by 
endocrinology, not on any medications
5. Traumatic injury to left leg with a nail that caused 
infection in remote past.
6. Trigeminal neuralgia - resolved
7. Status post detached conjoined twin at birth and surgery on
the right neck gland at birth
Head trauma ___ year ago in a bike accident requiring stitches."
 
Social History:
Personal and Social History:
- Born/Raised: ___, came to ___. in ___
- Relationship status/Children: Married, 5 children, of which 2 
sons died
- Primary Supports: Wife and children
- ___: Lives with wife in ___
- Education: elementary school
- Employment/Income: retired ___ years ago, used to work at ___ 
___ helping with bagging, carts
- Spiritual: Pentacostal
- Military History: ___
Substance use history:
Per patient, used to drink and had a history of withdrawal
seizures but has not had a drink in many years. Denies tobacco 
and drug use.
 
Family History:
Family psychiatric history:
- Psychiatric Diagnoses: Daughter denies
- ___ Use Disorders: Son with ___ use disorder
- Suicide Attempts/Completed Suicides: Daughter denies" On unit, 
patient denied any family history. 
 
Physical Exam:
Physical Examination:
VS:  BP: 117/74   HR: 57  temp: 98.0   resp:  O2 sat: 95% 
height:   weight:
General- Appears stated age, dressed in hospital gown, petit,
good grooming and hygiene, fair dentition
Skin- No lesions or bruises 
HEENT- no scleral icterus, moist mucus membranes 
Neck and Back- full range of motion
Lungs- clear bilaterally 
CV- RRR
Abdomen: bowel sounds present, soft, non tender
Extremities- full range of motion 
Neuro-
CN: 
      pupils symmetry and responsiveness to light and
accommodation: pupils symmetric and responsive to light and
accommodation
     visual fields: full
     EOM: intact
     facial sensation to light touch in all 3 divisions: intact
     facial symmetry on eye closure and smile: intact and no
asymmetry
     hearing bilaterally to rubbing fingers: intact
     phonation: normal
     head turning and shoulder shrug: normal bilaterally
     tongue: midline, no atrophy

Gait/Romberg: stable gait

Neuropsychiatric Examination:
  *Appearance: dressed in hospital gown, appears stated age, 
good
grooming/hygiene, NAD
  Behavior:
  *Mood and Affect: "ok" affect withdrawn 
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
circumstantial, vague answers 
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): worries about grandchildren and their
safety, preoccupied with getting home due to worries 
  *Judgment and Insight: limited/limited
  Cognition:
    *Attention, *orientation, and executive function: thought it
was Aug, corrected to ___ and year ___, did not know name of
hospital or city but was able to say he lives in ___.  Unable
to do days of the week backwards in ___ or ___, somewhat
limited attention to the conversation 
    *Memory: ___ registration ___ on recall
    *Fund of knowledge: knew current and 1 past president 
    Calculations: 1 dollar = 4 quarters 
    Abstraction: not tested
    Visuospatial: not tested
    *Speech: regular rate and volume
    *Language: Speaks and understands ___ but native 
language
is ___
 
Pertinent Results:
___ 06:41PM BLOOD WBC-7.5 RBC-4.64 Hgb-14.4 Hct-43.3 MCV-93 
MCH-31.0 MCHC-33.3 RDW-12.9 RDWSD-43.9 Plt ___
___ 06:41PM BLOOD Neuts-71.4* Lymphs-18.3* Monos-9.4 
Eos-0.1* Baso-0.5 Im ___ AbsNeut-5.34 AbsLymp-1.37 
AbsMono-0.70 AbsEos-0.01* AbsBaso-0.04
___ 06:41PM BLOOD Plt ___
___ 06:20PM BLOOD Glucose-115* UreaN-20 Creat-0.9 Na-143 
K-3.9 Cl-106 HCO3-22 AnGap-15
___ 06:20PM BLOOD VitB12-407 Folate->20
___ 05:21PM BLOOD %HbA1c-6.0 eAG-126
___ 06:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:46PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:46PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-100* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 06:05PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
RAPID PLASMA REAGIN TEST (Final ___: NONREACTIVE.
 
Brief Hospital Course:
Briefly, this is a ___ year old married ___ 
speaking man with no formal psychiatric history, history of 
alcohol use disorder (in remission), medical history notable for 
diet controlled type II DM, subclinical hyperthyroidism, HTN, 
and trigeminal neuralgia, who presented to ___ ___ from home 
via EMS due to concerns for worsening paranoia, depression. 
. 
Upon initial interview, patient was noted to be disorganized, 
tangential and circumstantial. History from family notable for 
the loss of two of sons, one by ___ ___ years ago and the other 
in ___ at patient's house, with patient being the one who found 
him. Patient's apparent decline started in ___ with memory 
difficulties and occasional episodes of confusion, and 
progressed more recently to persistent worry about locking the 
doors, communication with his family about being safe, "down" 
mood, poor appetite, energy, and poor concentration. Mental 
status examination was notable for a well nourished man with 
adequate hygiene and grooming with intermittently low mood, 
somewhat blunted affect, and thought process that could be 
somewhat disorganized at times. Cognitive examination notable 
for deficits in short term memory and executive functioning with 
neuroimaging on ___ (CT without contrast) notable for prominence 
of the ventricles and sulci suggestive of involuntional change 
and periventricular and subcortical white matter matter 
hypodensities are nonspecific, but likely reflect sequelae of 
chronic small vessel ischemic disease. 
. 
Given lack of any formal psychiatric history prior to 
approximately ___ years ago with family noting gradual decline 
over the past few years with apparent periods of confusion, 
forgetfulness, paranoia and cognitive examination as noted 
above, etiology of presentation is most likely consistent with 
underlying neurocognitive disorder (likely vascular dementia 
given patient's cardiovascular risk and imaging findings) with 
behavioral disturbances and psychotic and depressive features. 
. 
#. Legal/Safety: Patient admitted to ___ on a ___, upon admission he initially declined to sign a CV, but later 
signed one, which was accepted. Patient was initially placed on 
15 minute checks, but was switched to security CO after he tried 
eloping outside the unit on his way to a diagnostic procedures 
and became agitated and aggressive toward staff requiring 
chemical and physical restraint (see the description of the 
behavioral incident below). Once patient's behavior returned to 
his baseline, he was progressively switched to 5 minue checks 
and ultimately to 15 minute checks by the time of discharge.  
.
#. Neurocognitive disorder with behavioral disturbances and 
psychotic and depressive features: 
For depressive symptoms (predominantly sad mood and 
tearfulness), patient was started on sertraline that was 
uptitrated to 75 mg PO daily by the time of discharge. For 
insomnia, patient received 8 mg PO ramelteon QHS with good 
effect.
After risks and benefits of initiating an atypical antipsychotic 
were discussed with patient and his family, patient was briefly 
trialed on low dose risperidone (0.25-0.5 mg a day) that did not 
appear to be effective in alleviating patient's paranoid 
ideation or behavioral disturbances. Patient was then switched 
to low dose olanzapine (2.5 mg PO QHS and 2.5 mg PO DAILY:PRN 
for severe anxiety/agitation), which resulted in a modest 
improvement in patient's anxiety and paranoid ideation and 
resolution of behavioral disturbances. Patient tolerated 
sertraline, risperidone and ramelteon well and consistently 
denied any side effects.
Benzodiazepines and anticholinergic medications were avoided 
during the admission as much as possible.
.
Patient was encouraged to attend groups and was provided with 
milieu, supportive psychotherapy and psychoeducation. He was 
reluctant about participating in groups at first but by the time 
of discharge went to at least one group a day and made relevant 
contributions to discussions. 
Patient's family was educated about his condition and about the 
benefits of frequent re-orientation and patient being in a 
familiar environment. Patient's family was encouraged to use ___ 
and Senior Services of ___, as well as to take 
patient to a senior ___ in their community for day 
programs.
.
During his hospitalization, patient had one behavioral episode 
that required use of chemical and physical restraints. On ___ 
patient choked on a chicken bone at dinner, and Heimlich 
maneuver was used successfully. Despite the expulsion of the 
bone during the Heimlich maneuver, patient complained of 
continued discomfort in his throat and was taken for a neck 
X-ray. On his way to radiology, patient pushed the staff member 
accompanying him and tried eloping. He was agitated and 
physically aggressive toward staff members who came to escort 
him back to the unit, and chemical and physical restraints had 
to be used. Patient was not injured in the process and tolerated 
the restraints well. Physical restraint was discontinued as soon 
as patient was no longer danger to self or others, and patient 
was placed on security CO. Once patient's behavior returned to 
his baseline, he was progressively switched to 5 minute checks 
and ultimately to 15 minute checks by the time of discharge.
.
By discharge, patient's mood has improved with less sadness and 
lability, his anxiety and paranoid ideation became less frequent 
and more tolerable (with patient being able to cope with them 
without acting out), and patient was notably future-oriented 
looking forward to spend time with his grandchildren.
.
#. Medical:
Patient has a history of hypertension, trigeminal neuralgia, 
glaucoma, diet controlled type II diabetes mellitus and 
subclinical hypothyroidism. Patient's home medication regimens 
were continued as following:
- for hypertension, patient was continued on hydrochlorothiazide 
12.5 mg PO daily, atenolol 25 mg PO daily and lisinopril 40 mg 
PO daily;
- for trigeminal neuralgia, patient was continued on Trileptal 
300 mg PO BID;
- for glaucoma, patient was continued on timolol maleate 0.5% 1 
drop both eyes daily.
Patient's type II diabetes mellitus continued being controlled 
by diet with HgbA1c of 6.0 on ___ and daily glucose finger 
sticks in the 97-206 range.
.
Regarding the choking on chicken bone incident: portable neck 
X-ray was negative for foreign bodies, and fiberoptic 
examination of patient's throat did not reveal any foreign 
bodies, masses or significant lesions other than some posterior 
inflammation suggestive of GERD. Patient received viscous 
lidocaine for residual throat pain and was started on omeprazole 
20 mg PO QPM for GERD.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. hydroCHLOROthiazide 12.5 mg oral DAILY 
4. OXcarbazepine 300 mg PO BID 
5. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 

 
Discharge Medications:
1.  Lidocaine Viscous 2% 15 mL PO QID:PRN discomfort  
RX *lidocaine HCl [Lidocaine Viscous] 2 % swallow QID:PRN 
Refills:*0 
2.  melatonin 5 mg oral QHS 
RX *melatonin 5 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0 
3.  OLANZapine 2.5 mg PO QPM 
RX *olanzapine 2.5 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
4.  OLANZapine 2.5 mg PO DAILY:PRN severe anxiety/agitation only 

RX *olanzapine 2.5 mg 1 tablet(s) by mouth DAILY:PRN Disp #*10 
Tablet Refills:*0 
5.  Omeprazole 20 mg PO QPM 
RX *omeprazole 20 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0 
6.  Psyllium Powder 1 PKT PO TID 
RX *psyllium husk (aspartame) [Natural Fiber Supplement] 3.4 
gram 1 powder(s) by mouth three times a day Disp #*90 Packet 
Refills:*0 
7.  Sertraline 75 mg PO DAILY 
RX *sertraline 25 mg 3 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
8.  Atenolol 25 mg PO DAILY 
RX *atenolol 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
9.  hydroCHLOROthiazide 12.5 mg oral DAILY 
RX *hydrochlorothiazide 12.5 mg 1 capsule(s) by mouth daily Disp 
#*30 Capsule Refills:*0 
10.  Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
11.  OXcarbazepine 300 mg PO BID 
RX *oxcarbazepine 300 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
12.  Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 
RX *timolol [Betimol] 0.5 % 1 drop both eyes daily Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Unspecified neurocognitive disorder, with depressive and 
psychotic features

 
Discharge Condition:
T 98.3 BP 132/90 HR 67 RR 16
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative, good eye contact, no psychomotor 
agitation or retardation noted
S: normal rate, volume, tone 
M: 'good'
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, denies A/VH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x4 
I/J: good/good

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___